US08877772B2
Preparation of 1-(1H-indol-5-yl)-6-(3,4,5-trimethoxyphenyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one (Compound BD)
To a solution of 6-bromo-1-(1H-indol-5-yl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one (27 mg, 0.08 mmol) in CH3CN (1 mL) in a Personal Chemistry microwave reaction vial was added 3,4,5-trimethoxyphenylboronic acid (17 mg, 0.08 mmol), bis(triphenylphosphine)-palladium(II)dichloride (6.0 mg, 0.008 mmol), and 1 M Na2CO3 (1 mL). The resulting mixture was de-gassed with Ar for 10 min, after which it was heated at 150° C. for 10 min in a Personal Chemistry Optimizer. The organic layer was separated, filtered, and concentrated in vacuo. The residue was purified by preparatory HPLC to yield the title compound (6.5 mg, 19%). 1H NMR (DMSO-d6, 300 MHz): δ 12.18 (s, 1H), 11.28 (s, 1H), 8.57 (s, 1H), 7.83 (d, J=1.8 Hz, 1H), 7.52 (d, J=8.4 Hz, 1H), 7.42 (m, 1H), 7.37 (dd, J=1.8, 8.4 Hz, 1H), 7.20 (s, 2H), 6.51 (m, 1H), 3.78 (s, 6H), 3.66 (s, 3H); HPLC retention time: 2.30 minutes; MS ESI (m/z): 418.4 (M+1)+, calc. 417.

reactant | 6-bromo-1-(1H-indol-5-yl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | 0.08 mmol, 27 mg | BrC1=CN=C2C(=N1)N(C(N2)=O)C=2C=C1C=CNC1=CC2 | C13H8BrN5O
reactant | 3,4,5-trimethoxyphenylboronic acid | 0.08 mmol, 17 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Na2CO3 | 1 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 1 mL | CC#N | C2H3N
catalyst | bis(triphenylphosphine)-palladium(II)dichloride | 0.008 mmol, 6.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 1-(1H-indol-5-yl)-6-(3,4,5-trimethoxyphenyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | 6.5 mg, 19% | N1C=CC2=CC(=CC=C12)N1C(NC=2C1=NC(=CN2)C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H19N5O4
